US06509328B1
3-(4-Oxo-7-pyridin-2-yl-4,5-dihydro-3H-benzo [b][1,4]diazepin-2-yl)-benzonitrile
Prepared from {2-[3-(3-cyano-phenyl)-3-oxo-propionylamino]-4-pyridin-2-yl-phenyl}-carbamic acid tert.-butyl ester (Example K13) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a brown powder (29 mg).

reactant | {2-[3-(3-cyano-phenyl)-3-oxo-propionylamino]-4-pyridin-2-yl-phenyl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=NC=CC=C1)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C26H24N4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(4-Oxo-7-pyridin-2-yl-4,5-dihydro-3H-benzo [b][1,4]diazepin-2-yl)-benzonitrile | 29 mg | O=C1NC2=C(N=C(C1)C=1C=C(C#N)C=CC1)C=CC(=C2)C2=NC=CC=C2 | C21H14N4O
